US08975400B2
5-formyl-2-(3,4,5-trifluorophenoxy)benzonitrile
The title compound was prepared by a procedure similar to that described for D4 starting from 2-fluoro-5-formylbenzonitrile (200 mg, 1.341 mmol) and 3,4,5-trifluorophenol.

reactant | 2-fluoro-5-formylbenzonitrile | 1.341 mmol, 200 mg | FC1=C(C#N)C=C(C=C1)C=O | C8H4FNO
reactant | 3,4,5-trifluorophenol | FC=1C=C(C=C(C1F)F)O | C6H3F3O
product | 5-formyl-2-(3,4,5-trifluorophenoxy)benzonitrile | C(=O)C=1C=CC(=C(C#N)C1)OC1=CC(=C(C(=C1)F)F)F | C14H6F3NO2
